US09145438B2
Step 5: N1-(((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)-N1-isopropylpropane-1,3-diamine
2-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)-propyl)isoindoline-1,3-dione (1.37 g, 2.00 mmol) was dissolved in 2M methylamine in methanol (30 mL, 60 mmol). The solution was stirred at room temperature for 5 minutes then heated at 55-60° C. After 1 h, the SM was consumed by HPLC. The reaction mixture was cooled to room temperature and concentrated in vacuo. The resultant tan oil was taken up in 20 mL MeOH and concentrated. The procedure was repeated to an oil. The material was placed on high vacuum to yield a solid which contained the title compound along with N-methylphthalimide and was used as is in the next step: MS (ESI+) for C29H42N6O5 m/z 555.4 (M+H)+; HPLC ret. time 2.57 min.

reactant | 2-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(isopropyl)amino)-propyl)isoindoline-1,3-dione | 2.00 mmol, 1.37 g | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3O[C@@H]([C@@H]2[C@H]3OC(O2)(C)C)CN(CCCN2C(C3=CC=CC=C3C2=O)=O)C(C)C)C=CC(=C1)OC | C37H44N6O7
reactant | methanol | 60 mmol, 30 mL | CO | CH4O
solvent | methylamine | 2M | CN | CH5N
product | N1-(((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)-N1-isopropylpropane-1,3-diamine | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3O[C@@H]([C@@H]2[C@H]3OC(O2)(C)C)CN(CCCN)C(C)C)C=CC(=C1)OC | C29H42N6O5
